US06399629B1
(B) 4-(4-Phenylbutanoyl)piperazine
1-tert-Butyl-4-(4-phenylbutanoyl)piperazine (A, 2.64 g) was dissolved in trifluoroacetic acid (10 mL)—dichloromethane (10 mL). After siring for 1 hr, the reaction mixture was evaporated in vacuo. Toluene and methanol were added to the residue, then evaporated in vacuo to give the titled compound (1.63 g) as a colorless solid.

reactant | 1-tert-Butyl-4-(4-phenylbutanoyl)piperazine | C(C)(C)(C)N1CCN(CC1)C(CCCC1=CC=CC=C1)=O | C18H28N2O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(4-Phenylbutanoyl)piperazine | 1.63 g | C1(=CC=CC=C1)CCCC(=O)N1CCNCC1 | C14H20N2O
